US09376392B2
To the solution of 5-bromo-7-methylquinolin-6-ol (238 mg, 1.0 mmol) in dichloromethane (10 mL) and pyridine (2 mL) was added Tf2O (0.34 mL, 2.0 mmol) at −30° C. The mixture was stirred and warmed to 0° C. over a period of 2 hours. The reaction was quenched with slow addition of NaHCO3 solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to give 5-bromo-7-methylquinolin-6-yl trifluoromethanesulfonate. LCMS-ESI+ (m/z): 369.9, 371.9 (M+H)+.

reactant | 5-bromo-7-methylquinolin-6-ol | 1.0 mmol, 238 mg | BrC1=C2C=CC=NC2=CC(=C1O)C | C10H8BrNO
reactant | Tf2O | 2.0 mmol, 0.34 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-bromo-7-methylquinolin-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C(=C2C=CC=NC2=CC1C)Br)(F)F | C11H7BrF3NO3S
